US08071592B2
1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one Hydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one (110 mg, 0.359 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (65 mg; 0.395 mmol) were combined in anhydrous DCM (ml) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (239 mg, 1.08 mmol) was added and stirred for 1 h. The reaction mixture was concentrated and purified to obtain the free base of the title compound as a pale yellow oil (46 mg, 28%) after column chromatography (90:10:1: DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.359 mmol, 110 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=NC=C(C=C12)F)=O | C15H19FN4O2
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 1.08 mmol, 239 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one Hydrochloride | 46 mg, 28% | Cl.O1CCOC=2C=NC(=CC21)CNC[C@H]2CN(C[C@H]2O)CCN2C(C=CC1=NC=C(C=C21)F)=O | InChI=1S/C23H26FN5O4.ClH/c24-16-7-19-18(27-10-16)1-2-23(31)29(19)4-3-28-13-15(20(30)14-28)9-25-11-17-8-21-22(12-26-17)33-6-5-32-21;/h1-2,7-8,10,12,15,20,25,30H,3-6,9,11,13-14H2;1H/t15-,20+;/m0./s1
